US07053122B2
2-Aminomethyl-5-chloro-benzoic acid hydrochloride salt
A mixture of 6-chloro-2,3-dihydro-isoindol-1-one (0.115 g, 0.68 mmol) and 6M hydrochloric acid (8 ml) in dioxan (1 ml) was heated to 110° C. for 18 hours. After cooling to room temperature the solid was filtered off and dried in vacuo to give the title compound (0.0055 g, 4%) as a beige solid.

reactant | 6-chloro-2,3-dihydro-isoindol-1-one | 0.68 mmol, 0.115 g | ClC1=CC=C2CNC(C2=C1)=O | C8H6ClNO
reactant | hydrochloric acid | 6M, 8 ml | Cl | ClH
reactant | dioxan | 1 ml | O1CCOCC1 | C4H8O2
product | 2-Aminomethyl-5-chloro-benzoic acid hydrochloride salt | 0.0055 g, 4% | Cl.NCC1=C(C(=O)O)C=C(C=C1)Cl | InChI=1S/C8H8ClNO2.ClH/c9-6-2-1-5(4-10)7(3-6)8(11)12;/h1-3H,4,10H2,(H,11,12);1H
